US09145441B2
Compound 77c. (R)-2-Methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoic acid
A cooled (0° C.) solution of (R)-4-isopropyl-3-[(R)-2-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoyl]-oxazolidin-2-one (543.3 mg, 1.591 mmol) in tetrahydrofuran/water (15 mL, 2:1) was subsequently treated with hydrogen peroxide (30%, 820 μL, 7.955 mmol) and lithium hydroxide monohydrate (133.5 mg, 3.181 mmol). After stirring at 0° C. for 2 h, the reaction was quenched with solid sodium metabisulfite (3 g, 16 mmol). After stirring at room temperature for 30 min, the mixture was acidified with hydrochloric acid (1 M) to pH 2, the aqueous layer was extracted with dichloromethane (2×). The organics were combined, filtered through a phase separator and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 50 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 4:1 to afford the title compound (322.3 mg, 88%) as a colourless oil. 1H NMR (300 MHz, CDCl3) δ 0.03 (s, 9H), 0.98 (app t, J=8.5 Hz, 2H), 1.34 (s, 3H), 3.46 (d, J=8.9 Hz, 1H), 3.57-3.67 (m, 3H), 5.19-5.29 (m, 2H), 6.00 (dd, J=17.4, 10.7 Hz, 1H), 10.80 (br s, 1H).

reactant | (R)-4-isopropyl-3-[(R)-2-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoyl]-oxazolidin-2-one | 1.591 mmol, 543.3 mg | C(C)(C)[C@H]1N(C(OC1)=O)C([C@](C=C)(COCC[Si](C)(C)C)C)=O | C17H31NO4Si
reactant | hydrogen peroxide | 7.955 mmol, 820 μL | OO | H2O2
reactant | lithium hydroxide monohydrate | 3.181 mmol, 133.5 mg | O.[OH-].[Li+]
reactant | sodium metabisulfite | 16 mmol, 3 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran water | 15 mL | O1CCCC1.O
product | (R)-2-Methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoic acid | 322.3 mg, 88% | C[C@@](C(=O)O)(C=C)COCC[Si](C)(C)C | C11H22O3Si
